US08580783B2
5-(3-nitro-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine
To a solution of commercially available (3-nitro-phenyl)-acetyl chloride (2.20 g, 11.05 mmol) in anhydrous DCM (9 mL) was added 2-aminobenzoic acid (0.76 g, 5.50 mmol). Pyridine (3 mL) was then added to the mixture and the reaction mixture was heated under microwave condition at 120° C. for 30 minutes, then diluted with dichloromethane and washed with NaHCO3 satured solution, then with water followed by brine. The organic phase was dried over Na2SO4, filtered and evaporated to give the 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one intermediate as red oil. To a solution of 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one in dry pyridine (10 mL) was added aminoguanidine hydrogencarbonate (0.90 g, 6.60 mmol) and the mixture was heated under microwave condition at 180° C. for 20 minutes. The solvent was then evaporated and the crude was purified by flash column chromatography on silica gel eluting with DCM/CH3OH 95/5 to afford the title compound as orange solid (0.35 g, 30% yield).

reactant | 2-(3-nitro-benzyl)-benzo[d][1,3]oxazin-4-one | [N+](=O)([O-])C=1C=C(CC=2OC(C3=C(N2)C=CC=C3)=O)C=CC1 | C15H10N2O4
reactant | aminoguanidine hydrogencarbonate | 6.60 mmol, 0.90 g | C(O)(O)=O.NNC(=N)N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-nitro-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | 0.35 g, 30% yield | [N+](=O)([O-])C=1C=C(CC2=NC=3C=CC=CC3C=3N2N=C(N3)N)C=CC1 | C16H12N6O2
